US07786142B2
Synthesis of 1-(9H-carbazol-4-yloxy)-3-{4-(5-nitro-2-furoyl)piperazin-1-yl}propan-2-ol
To a solution of 5-Nitrofuroic acid (1.56 g, 9.9 mmol) in DMF (30 mL) was added DIPEA (4.3 mL, 24.8 mmol), EDCI (3.18 g, 16.5 mmol), HOBt (0.44 g, 3.3 mmol) followed by the 1-(9H-carbazol-4-yloxy)-3-piperazin-1-ylpropan-2-ol (2.7 g, 8.3 mmol, prepared following the procedure described above in step 11, example 26). The reaction mixture was stirred at room temperature for 12 hours and was diluted with DCM (100 mL), washed with water and brine solution. The organic layer was dried on anhydrous Na2SO4, concentrated and purified by silica gel column chromatography, using hexane/EtOAc (4:6) to afford the title compound as yellow colored solid (2.0 g, 51% yield) with m.p: 178-181° C. 1H NMR (400 MHz, DMSO): δ 2.30-2.60 (m, 4H), 2.67-2.69 (m, 2H), 3.63-3.69 (m, 4H), 4.13-4.21 (m, 3H), 5.08 (s, 1H), 6.69 (d, 1H, J=8.0 Hz), 7.06 (d, 1H, J=8.0 Hz), 7.14 (t, 1H, J=8.0 Hz), 7.24-7.36 (m, 3H), 7.44 (d, 1H, J=8.0 Hz), 7.66 (d, 1H, J=4.0 Hz), 8.22 (d, 1H, 8.0 Hz), and 11.25 (s, 1H). MS m/z: 464.8 (M+1).

reactant | 5-Nitrofuroic acid | 9.9 mmol, 1.56 g | [N+](=O)([O-])C1=CC=C(O1)C(=O)O | C5H3NO5
reactant | DIPEA | 24.8 mmol, 4.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 16.5 mmol, 3.18 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3.3 mmol, 0.44 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(9H-carbazol-4-yloxy)-3-piperazin-1-ylpropan-2-ol | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN1CCNCC1)O | C19H23N3O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(9H-carbazol-4-yloxy)-3-{4-(5-nitro-2-furoyl)piperazin-1-yl}propan-2-ol | 2.0 g, 51% yield | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN1CCN(CC1)C(=O)C=1OC(=CC1)[N+](=O)[O-])O | C24H24N4O6
